US04053601
3-(2-Hydroxybenzoyl)butyric acid (4.0 g, 0.02 mole) was esterified in methanol in a similar manner to that described in Example 4(i) to give methyl 3-(2-hydroxybenzoyl)butyrate (4.0 g, 94%) as an oil.

reactant | 3-(2-Hydroxybenzoyl)butyric acid | 0.02 mole, 4.0 g | OC1=C(C(=O)C(CC(=O)O)C)C=CC=C1 | C11H12O4
reactant | methanol | CO | CH4O
product | methyl 3-(2-hydroxybenzoyl)butyrate | 4.0 g, 94% | OC1=C(C(=O)C(CC(=O)OC)C)C=CC=C1 | C12H14O4
